US06515003B1
To a solution of 2-fluoro-3-hydroxy-4-methoxybenzaldehyde (1.1 g, 6.47 mmol) in dichloromethane (50 mL) was added pyridine (0.6 mL, 7.76 mmol) and the solution cooled to 0° C. Triflic anhydride (1.3 mL, 7.76 mmol) was added slowly and the reaction mixture warmed slowly to room temperature and stirred overnight at room temperature. The solution was washed successively with water and brine, dried over anhydrous magnesium sulfate, filtered and evaporated. The residue was chromatographed and silica gel (eluent: ethyl acetate/hexane, 1:4) to give 1.21 g of 2-fluoro-4-methoxy-3-trifluoromethanesulfonyl benzaldehyde (62%). 1H NMR (500 MHz; CDCl3): δ4.03 (s, 3H), 6.95 (d, J=8.0 Hz, 1H), 7.89 (dd, J=8.0 Hz, J2=9.0 Hz, 1H), 10.20 (s, 1H).

reactant | 2-fluoro-3-hydroxy-4-methoxybenzaldehyde | 6.47 mmol, 1.1 g | FC1=C(C=O)C=CC(=C1O)OC | C8H7FO3
reactant | pyridine | 7.76 mmol, 0.6 mL | N1=CC=CC=C1 | C5H5N
reactant | Triflic anhydride | 7.76 mmol, 1.3 mL | S(=O)(=O)(C(F)(F)F)OS(=O)(=O)C(F)(F)F | C2F6O5S2
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | 2-fluoro-4-methoxy-3-trifluoromethanesulfonyl benzaldehyde | 1.21 g, 62% | FC1=C(C=O)C=CC(=C1S(=O)(=O)C(F)(F)F)OC | C9H6F4O4S
